US06515011B2
To a solution of 1-((9-hydroxy-9H-fluoren-9-yl)carbonyl)-N-(2-aminomethyl-5-chlorobenzyl)-L-prolinamide (65 mg, 0.14 mmol) in anhydrous toluene (1.0 mL) at 0° C. was added difluoroacetaldehyde ethylhemiacetal (20 mg, 0.16 mmol, 1.1 eq). The mixture was heated to 100° C. under nitrogen atmosphere for 40 min and was then treated with MgSO4. Heating was continued for another 2 h. The mixture was then cooled to room temperature and diluted with CH2Cl2. The solution was dried over MgSO4, filtered and concentrated to an orange oil which yielded N-(5-chloro-2-{[(2,2-difluoroethylidene)amino]-methyl}benzyl-1-[(9-hydroxy-9-H-fluoren-9-yl)carbonyl]-L-prolinamide as a foam on prolonged drying under high vacuum. (66 mg, 90%).

reactant | 1-((9-hydroxy-9H-fluoren-9-yl)carbonyl)-N-(2-aminomethyl-5-chlorobenzyl)-L-prolinamide | 0.14 mmol, 65 mg | OC1(C2=CC=CC=C2C=2C=CC=CC12)C(=O)N1[C@H](C(=O)NCC2=C(C=CC(=C2)Cl)CN)CCC1 | C27H26ClN3O3
reactant | difluoroacetaldehyde ethylhemiacetal | 0.16 mmol, 20 mg, 1.1 eq | C(C)OC(C(F)F)O | C4H8F2O2
reactant | MgSO4 | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | toluene | 1.0 mL | C1(=CC=CC=C1)C | C7H8
product | 5-chloro-2-{[(2,2-difluoroethylidene)amino]-methyl}benzyl-1-[(9-hydroxy-9-H-fluoren-9-yl)carbonyl]-L-prolinamide | ClC=1C=CC(=C(C[C@@]2(N(CCC2)C(=O)C2(C3=CC=CC=C3C=3C=CC=CC23)O)C(=O)N)C1)CN=CC(F)F | C29H26ClF2N3O3
